US05428037
A solution of lithium aluminum hydride (0.6 g) and 1-(2,3,4-trimethoxyphenyl)methyl-4-[(2-(4-trifluoromethylphenyl)-1,5-dimethylimidazol-4-yl)-3-oxoprop-1-yl]piperazine (2 g) in 50 ml of tetrahydrofuran was refluxed for 48 hours Excess reagent was hydrolysed by cooling the mixture to 0° C. and adding wet tetrahydrofuran dropwise. The mixture was filtered, the solid washed with a mixture of 1:1 ethanol/isopropanol, solvent evaporated from the filtrate, and the residue flash-chromatographed on silica gel, eluting with 2% methanol in dichloromethane, to yield 400 mg of 1-(2,3,4-trimethoxyphenyl)methyl-4-[(2-(4-trifluoromethylphenyl)-1,5-dimethylimidazol-4-yl)prop-1-yl]piperazine, which was converted to its hydrochloride salt, m.p. 212° C.

reactant | lithium aluminum hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2,3,4-trimethoxyphenyl)methyl-4-[(2-(4-trifluoromethylphenyl)-1,5-dimethylimidazol-4-yl)-3-oxoprop-1-yl]piperazine | 2 g | COC1=C(C=CC(=C1OC)OC)CN1CCN(CC1)CCC(=O)C=1N=C(N(C1C)C)C1=CC=C(C=C1)C(F)(F)F | C29H35F3N4O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,3,4-trimethoxyphenyl)methyl-4-[(2-(4-trifluoromethylphenyl)-1,5-dimethylimidazol-4-yl)prop-1-yl]piperazine | 400 mg | COC1=C(C=CC(=C1OC)OC)CN1CCN(CC1)CCCC=1N=C(N(C1C)C)C1=CC=C(C=C1)C(F)(F)F | C29H37F3N4O3
